* C:\Users\thoma\University\Compsys209\209_group7_2026\ltspice\LTspice Simulation.asc
* Generated by LTspice 26.0.2 for Windows.
Vsupply_12.6-15.4 Vac 0 SINE(0 17.8190908859 500)
Lload Vac N006 4mH Rser=1m
Rload_5-105 N006 Vis 17.03
Ra Vac Vvs 120k
Rb Vvs 0 5.6k
Rs Vis 0 0.5
R2 N007 0 12k
R3 N010 N011 12k
R4 VisOp N007 27k
R5 N010 2.1Vdc 27k
D1 Vac N001 1N4148
R6 N002 N001 33
C1 N002 0 47µ
C2 5Vdc 0 10µ
X§U3 0 5Vdc N002 LT1085-5 ;§pnba GND)OUT)IN
R7 5Vdc N003 4.7k
R8 N003 N004 3.3k
X§U1 N010 N007 5Vdc 0 VisOp LM324 ;§pnba In+)In-)V+)V-)OUT
R9 N004 0 100
X§U2 N003 2.1Vdc 5Vdc 0 2.1Vdc LM324 ;§pnba In+)In-)V+)V-)OUT
R1 VisF VisOp 1000
C3 VisF 0 10n
V§Noise1 N005 0 SINE(0 1 100k)
R10 NoiseInj N005 1Meg
V§Noise N011 Vis SINE(0 0.1 100k)
X§U4 N009 2.1Vdc 5Vdc 0 CurrPass0 LM324 ;§pnba In+)In-)V+)V-)OUT
R11 N009 N008 1k
R12 CurrPass0 N009 27k
X§U5 VisF N008 5Vdc 0 N008 LM324 ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\thoma\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20ms
.lib LM324.lib
* Not working / not visible
.meas TRAN t_vis WHEN V(vis)=0 RISE=1 TD=9m
.meas TRAN t_visf WHEN V(visf)=2.1 RISE=1 TD=9m
.meas TRAN t_output WHEN V(currpass0)=2.1 RISE=1 TD=9m
.meas TRAN t_vis_ms PARAM t_vis*1000
.meas TRAN t_visf_ms PARAM t_visf*1000
.meas TRAN t_output_ms PARAM t_output*1000
.meas TRAN delay_filter_ms PARAM (t_visf-t_vis)*1000
.meas TRAN delay_comparator_ms PARAM (t_output-t_visf)*1000
.meas TRAN delay_total_ms PARAM (t_output-t_vis)*1000
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\thoma\AppData\Local\LTspice\lib\sym\PowerProducts\LT1085-5.asy)
.lib LT1083.lib
.backanno
.end
